US09216173B2
Dioxane (3.61 mL), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazole (200 mg, 0.962 mmol), water (0.40 mL) and tribasic potassium phosphate, (511 mg, 2.41 mmol) were added to 5-bromo-6-methylpyridin-2-amine (150 mg, 0.802 mmol) in a scintillation vial. The vial was purged and flushed with argon 3 times before adding PdCl2(dppf)-CH2Cl2 adduct (66 mg, 0.080 mmol). The vial was then purged with argon, sealed, and heated to 100° C. After 16 hours, the reaction mixture was cooled to room temperature, filtered through CELITE (washed with chloroform), and diluted with water. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10-100% (10% methanol in chloroform)/hexanes, linear gradient) to afford 6-methyl-5-(1-methyl-1H-imidazol-4-yl)pyridin-2-amine. MS ESI calc'd. for C10H13N4 [M+H]+ 189. found 189. 1H NMR (500 MHz, CDCl3) δ 7.52 (s, 1H), 7.37 (s, 1H), 7.35 (d, J=8.3 Hz, 1H), 6.38 (d, J=8.3 Hz, 1H), 3.94 (s, 3H), 2.44 (s, 3H).

reactant | Dioxane | 3.61 mL | O1CCOCC1 | C4H8O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazole | 0.962 mmol, 200 mg | CN1C=NC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 2.41 mmol, 511 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-bromo-6-methylpyridin-2-amine | 0.802 mmol, 150 mg | BrC=1C=CC(=NC1C)N | C6H7BrN2
catalyst | PdCl2(dppf) CH2Cl2 | 0.080 mmol, 66 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 0.40 mL | O | H2O
product | 6-methyl-5-(1-methyl-1H-imidazol-4-yl)pyridin-2-amine | CC1=C(C=CC(=N1)N)C=1N=CN(C1)C | C10H12N4
